** sch_path: /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/PAD_2ESD_tb.sch
**.subckt PAD_2ESD_tb
V1 DVDD GND 5
V2 VDD GND 5
V3 DVSS GND 0
V4 VSS GND 0
V5 net1 GND DC 3.3 AC 1
R1 PAD net1 1k
X1 DVSS DVDD VSS VDD PAD ASIG gf180mcu_fd_io__asig_5p0_extracted
XIO1 VDD ASIG2 ASIG VSS io_secondary_3p3
* noconn ASIG2
**** begin user architecture code

.include /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/gf180mcu_fd_io__asig_5p0_extracted.spice


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical



.ac dec 100 1k 100G
.save all
.control
run
display
plot PAD ASIG ASIG2
plot vdb(asig) vdb(pad) vdb(asig2)
.endc


**** end user architecture code
**.ends

* expanding   symbol:  xschem/symbols/io_secondary_3p3/io_secondary_3p3.sym # of pins=4
** sym_path: /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/symbols/io_secondary_3p3/io_secondary_3p3.sym
** sch_path: /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/symbols/io_secondary_3p3/io_secondary_3p3.sch
.subckt io_secondary_3p3 VDD to_gate ASIG3V3 VSS


*.iopin VSS
*.iopin VDD
*.iopin to_gate
*.iopin ASIG3V3
XR1 to_gate ASIG3V3 VDD ppolyf_u r_width=16e-6 r_length=4e-6
D2 VSS to_gate diode_nd2ps_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
D1 to_gate VDD diode_pd2nw_03v3 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends

.GLOBAL GND
.end
