** sch_path: /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/asig5V_AC_tb.sch
**.subckt asig5V_AC_tb
V1 DVDD GND 5
V2 VDD GND 5
V3 DVSS GND 0
V4 VSS GND 0
V5 net1 GND DC 3 AC 1
R1 ASIG net1 1k
**** begin user architecture code

.include /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/gf180mcu_fd_io__asig_5p0_extracted.spice
XDUT DVSS DVDD VSS VDD PAD ASIG gf180mcu_fd_io__asig_5p0_extracted


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical



.ac dec 100 1k 100G
.save all
.control
run
display
plot PAD ASIG
plot vdb(asig) vdb(pad)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
