** sch_path: /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/asig5V_tran_tb.sch
**.subckt asig5V_tran_tb
V1 DVDD GND 5
V2 VDD GND 5
V3 DVSS GND 0
V4 VSS GND 0
V5 Vin GND PULSE(0 5 2n 10n 10n 400n 800n)
XM1 ASIG Vin VDD VDD pfet_05v0 L=0.50u W=8.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
XM2 ASIG Vin VSS VSS nfet_05v0 L=0.60u W=3.0u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0
**** begin user architecture code

.include /foss/designs/sscs-chipathon-2025/resources/Integration/Chipathon2025_pads/xschem/gf180mcu_fd_io__asig_5p0_extracted.spice
XDUT DVSS DVDD VSS VDD PAD ASIG gf180mcu_fd_io__asig_5p0_extracted


.include /foss/pdks/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /foss/pdks/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical




.control
tran 1n 1u
plot V(Vin)+12 V(ASIG)+6 V(PAD)
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
